US07795255B2
Preparation of 2-(furan-3-yl)-1,3-dioxolane
As depicted in Scheme 13 above, a mixture of furan-3-carbaldehyde (1.20 mol), ethylene glycol (1.32 mol), p-toluenesulfonic acid (4.6 grams, 0.024 mol) and benzene (100 ml) is heated to reflux for 19 hours in a 500 ml round-bottomed flask fitted with a Dean-Stark trap, while water are removed from the mixture by azeotropic distillation. Once water ceases to condense, the reaction mixture is washed with saturated sodium bicarbonate (NaHCO3, 200 ml). The combined organic phase is washed with water (100 ml) and saturated sodium chloride (NaCl, 100 ml), dried over MgSO4, and then concentrated a rotary evaporator. The residual paste is purified by distillation at 80° C. and 10 Torr (1333 pascals).

reactant | furan-3-carbaldehyde | 1.20 mol | O1C=C(C=C1)C=O | C5H4O2
reactant | ethylene glycol | 1.32 mol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.024 mol, 4.6 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(furan-3-yl)-1,3-dioxolane | O1C=C(C=C1)C1OCCO1 | C7H8O3
